US08580794B2
4-(4-{[2-(4-chlorophenyl)-4,4-dimethylcyclohex-1-en-1-yl]methyl}piperazin-1-yl)-N-({3-nitro-4-[(1-tetrahydro-2H-pyran-4-ylazetidin-3-yl)amino]phenyl}sulfonyl)-2-(1H-pyrrolo[2,3-b]pyridin-5-yloxy)benzamide
A suspension of 2-(1H-pyrrolo[2,3-b]pyridin-5-yloxy)-N-(4-chloro-3-nitrophenylsulfonyl)-4-(4-((2-(4-chlorophenyl)-4,4-dimethylcyclohex-1-enyl)methyl)piperazin-1-yl)benzamide (0.180 g), 1-(tetrahydro-2H-pyran-4-yl)azetidin-3-amine (0.078 g), and triethylamine (0.159 mL) in dioxane (2 mL) was degassed with nitrogen for 30 seconds then sealed. The reaction was heated to 110° C. After stirring for 16 hours, more triethylamine (10 equivalents total) and dimethylsulfoxide (1 mL) were added and the reaction stirred for an additional 18 hours at 110° C. The reaction was cooled, diluted with water (50 mL) and extracted with dichloromethane (2×150 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated. Silica gel chromatography (GraceResolv 12 g) eluting with a gradient of 0.75% to 7.5% methanol/dichloromethane (Flow=36 mL/minutes) gave the title compound. 1H NMR (300 MHz, dimethylsulfoxide-d6) δ 11.59 (s, 1H), 8.49 (d, 1H), 8.40 (s, 1H), 7.97 (d, 1H), 7.77 (s, 1H), 7.47 (dd, 3H), 7.34 (d, 2H), 7.04 (d, 2H), 6.90-6.78 (m, 1H), 6.65 (d, 1H), 6.35 (s, 1H), 6.21 (s, 1H), 4.47-4.23 (m, 1H), 3.83 (s, 3H), 3.05 (s, 6H), 2.73 (s, 2H), 2.18 (s, 8H), 1.95 (s, 2H), 1.68 (s, 2H), 1.38 (s, 2H), 1.24 (s, 4H), 0.92 (s, 6H).

reactant | 2-(1H-pyrrolo[2,3-b]pyridin-5-yloxy)-N-(4-chloro-3-nitrophenylsulfonyl)-4-(4-((2-(4-chlorophenyl)-4,4-dimethylcyclohex-1-enyl)methyl)piperazin-1-yl)benzamide | 0.180 g | N1C=CC=2C1=NC=C(C2)OC2=C(C(=O)NS(=O)(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-])C=CC(=C2)N2CCN(CC2)CC2=C(CC(CC2)(C)C)C2=CC=C(C=C2)Cl | C39H38Cl2N6O6S
reactant | 1-(tetrahydro-2H-pyran-4-yl)azetidin-3-amine | 0.078 g | O1CCC(CC1)N1CC(C1)N | C8H16N2O
reactant | triethylamine | 0.159 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 10 equivalents | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | 4-(4-{[2-(4-chlorophenyl)-4,4-dimethylcyclohex-1-en-1-yl]methyl}piperazin-1-yl)-N-({3-nitro-4-[(1-tetrahydro-2H-pyran-4-ylazetidin-3-yl)amino]phenyl}sulfonyl)-2-(1H-pyrrolo[2,3-b]pyridin-5-yloxy)benzamide | ClC1=CC=C(C=C1)C1=C(CCC(C1)(C)C)CN1CCN(CC1)C1=CC(=C(C(=O)NS(=O)(=O)C2=CC(=C(C=C2)NC2CN(C2)C2CCOCC2)[N+](=O)[O-])C=C1)OC=1C=C2C(=NC1)NC=C2 | C47H53ClN8O7S
